### PR TITLE
Add new tactic "ensatz" for proving polynomial equalities with existential quantifier

### PR DESCRIPTION
**Pull request by lyonel2017**
This PR introduce the `ensatz` tactic that can prove automatically goals of the form:

 ```math 
     \begin{array}{l}
    \forall X_1, \ldots, X_n \in A, \\
    P_1(X_1, \ldots, X_n) = Q_1(X_1, \ldots, X_n), \ldots, P_s(X_1, \ldots, X_n) = Q_s(X_1, \ldots, X_n) \\
    \vdash \exists Y_1, \ldots, Y_m \in A, 
    P(X_1, \ldots, X_n) = Y_1 * Q'_1(X_1, \ldots, X_n) + \dots + Y_m * Q'_m(X_1, \ldots, X_n)
    \end{array}
```
Tests have be added to the test-suite in file `test-suite/success/ENsatz.v`.

- [x] Added / updated **documentation**:

An entry to the sphinx documentation of `Rocq` is available [here](https://github.com/lyonel2017/coq/blob/doc-ensatz/doc/sphinx/addendum/nsatz.rst) and ready for a PR.

- [x] Added **changelog**.

### CODE REVIEW

File: theories/nsatz/ENsatzTactic.v [hunk 1]
```diff
@@ -0,0 +1,525 @@
...
+(*         *     (see LICENSE file for the text of the license)         *)
+(************************************************************************)
+
+(*
+ Tactic ensatz: proofs of polynomials equalities in an integral domain
+(commutative ring without zero divisor) with existential quantifier.
+
+Examples: see test-suite/success/ENsatz.v
+
+Reification is done using type classes, defined in Ncring_tac.v
```
Comment (SkySkimmer) [inline theories/nsatz/ENsatzTactic.v:17]: the entry point for reification is a typeclass Hint Extern, but the reification is ltac not typeclass based AFAIK

File: theories/nsatz/ENsatzTactic.v [hunk 2]
```diff
@@ -0,0 +1,521 @@
...
+  match p with
+  | Pc e => Pc (PEopp e)
+  | Poly p e v => Poly (opp_mpoly p) (PEopp e) v
+  end.
+
+Ltac reify R Tring lvar term:=
+  match open_constr:((Tring, term)) with
+  | (Ring (T:=?R) (add:=?add) (mul:=?mul) (sub:=?sub),
+      (fun e1 => ?op (@?E1 e1) (@?E2 e1))) =>
+      let _ := match goal with _ => convert add op end in
```
Comment (andres-erbsen) [inline theories/nsatz/ENsatzTactic.v:329]: Do we *really* *need* conversion here? I know nsatz uses it, but conversion can be arbitrarily slow on surprising cases, and IME syntactic mathcing is enough for reification. If you want to support algebra_syntax notations, it's better to add specific match cases for these.

File: theories/nsatz/ENsatzTactic.v [hunk 3]
```diff
@@ -0,0 +1,521 @@
...
+      let term' := reify_evar_aux P in
+      constr:(fun x => @sndVar _ _ (term' x))
+  | (fun e:?T => e) => constr:(fun e :T => mRef e)
+  end.
+
+Inductive MPoly {R: Type}: Type:=
+| Poly : MPoly -> (PExpr Z) -> @Var R -> MPoly
+| Pc : (PExpr Z) -> MPoly.
+
+Ltac reify_evar R term :=
```
Comment (andres-erbsen) [inline theories/nsatz/ENsatzTactic.v:262]: What's going on here? is the argument actually an evar?

Reification of binders by pairing is known to be slow and lead to complex error messages. It may still be the right choice for here, but please consider alternatives in https://dspace.mit.edu/bitstream/handle/1721.1/137403/2018-reification-by-parametricity-itp-draft.pdf

File: theories/nsatz/ENsatzTactic.v [hunk 4]
```diff
@@ -0,0 +1,521 @@
...
+          exists t
+      end.
+
+Ltac mk_exists R x f :=
+  match goal with
+  | x : (R * unit)%type |- _ =>
+      let z := fresh "z" in
+      destruct x as [z x]; exists (f z)
+  | x : (R * ?A)%type |- _ => destr_tuple R constr:(@nil R) f
+  end.
```
Comment (andres-erbsen) [inline theories/nsatz/ENsatzTactic.v:425]: Are these tactics intended for independent use? If not, please put them in a module named to make that clear, or if you want to make direct calls from the outside completely impossible (even during debugging), mark them Local.

File: theories/nsatz/ENsatzTactic.v [hunk 5]
```diff
@@ -0,0 +1,521 @@
...
+Definition coef {A R:Type} (p: A -> @MPoly R) :=
+  fun x => get_coef (p x).
+
+Definition merge {A R:Type} (p1 p2: A -> @MPoly R) :=
+  fun x => add_mpoly (p1 x) (opp_mpoly (p2 x)).
+
+Ltac reify_goal  :=
+  match goal with
+  | |- @ex _ (fun e1 : _ => @eq ?R (@?P1 e1) (@?P2 e1)) =>
+      let lvar := open_constr:(_ :> list R) in
```
Comment (andres-erbsen) [inline theories/nsatz/ENsatzTactic.v:380]: Where does `lvar` get updated?

File: theories/nsatz/ENsatzTactic.v [hunk 6]
```diff
@@ -0,0 +1,521 @@
...
+  | Poly p e v => e :: get_coef p
+  end.
+
+Definition coef {A R:Type} (p: A -> @MPoly R) :=
+  fun x => get_coef (p x).
+
+Definition merge {A R:Type} (p1 p2: A -> @MPoly R) :=
+  fun x => add_mpoly (p1 x) (opp_mpoly (p2 x)).
+
+Ltac reify_goal  :=
```
Comment (andres-erbsen) [inline theories/nsatz/ENsatzTactic.v:377]: This procedure interleaves generalization of the goal over effective variables (from the perspective of ensatz) and the reification of it. For troubleshooting failing invocations, it is useful to be able to run the generalization phase without reification. (This also enables faster and more predictable reification methods.) Existing stdlib tactics do do something similar to the code here, and I am not going to hold this contribution to a hypocritically high standard, but I do genuinely believe it would be more useful if these steps were factored out.

File: theories/nsatz/ENsatzTactic.v [hunk 7]
```diff
@@ -0,0 +1,521 @@
...
+ end.
+
+Ltac ensatz_solve R p2 lp2 n fv info :=
+  let p21 := fresh "p21" in
+  let lp21 := fresh "lp21" in
+  let n21 := fresh "n21" in
+  let lv := fresh "lv" in
+  set (p21:=p2); set (lp21:=lp2); set (n21:= n); set(lv := fv);
+  (*We want r to be 1, so we set radicalmax to 1*)
+  NsatzTactic.nsatz_call 1%N info 0%Z p2 lp2
```
Comment (andres-erbsen) [inline theories/nsatz/ENsatzTactic.v:451]: Now that we have two calls to this function, it would be really nice to have at least a basic comment describing what it should and should not do.

File: theories/nsatz/ENsatzTactic.v [hunk 8]
```diff
@@ -0,0 +1,521 @@
...
+    ltac:(fun c r lq lci =>
+            let Hg := fresh "Hg" in
+            let c21 := fresh "c" in
+            set (c21 := c);
+            let p211 := constr: (PEmul c p21) in
+            (*If c is not 1/-1, this assert should fail*)
+            assert (Hg:check lp21 p211 (lci,lq) = true);
+            [vm_compute; reflexivity |];
```
Comment (andres-erbsen) [inline theories/nsatz/ENsatzTactic.v:459]: Does this vm_compute always succeed if there are no bugs in this tactic? If yes, consider `vm_cast_no_check (eq_refl true)`

File: theories/nsatz/ENsatzTactic.v [hunk 9]
```diff
@@ -0,0 +1,521 @@
...
+  let lp21 := fresh "lp21" in
+  let n21 := fresh "n21" in
+  let lv := fresh "lv" in
+  set (p21:=p2); set (lp21:=lp2); set (n21:= n); set(lv := fv);
+  (*We want r to be 1, so we set radicalmax to 1*)
+  NsatzTactic.nsatz_call 1%N info 0%Z p2 lp2
+    ltac:(fun c r lq lci =>
+            let Hg := fresh "Hg" in
+            let c21 := fresh "c" in
+            set (c21 := c);
```
Comment (andres-erbsen) [inline theories/nsatz/ENsatzTactic.v:455]: Is the intent to perform unification of all subterms of the entire goal with c here? If not, pose and change.

**Review by andres-erbsen — COMMENTED** [review]
I think it will be good having a tactic like this in stdlib. And I'd like to use it myself, both in stdlib and otherwise. At the same time, the proposed implementation provoked a number of initial responses and questions from me. This initial review is not complete and not everything here is requirement for merging, but I would like to hear your thoughts on these points and overall plan/goals.

Additionally, are you looking to keep using this tactic yourself, and where?

Edit: an important part of my context here is that I am a heavy user of nsatz and have spent a substantial amount of time fighting its implementation issues, including maintaining a part-reimplementation ([in fiat-crypto](https://github.com/mit-plv/fiat-crypto/blob/master/src/Algebra/Nsatz.v)). From this, my overall impression is that nsatz .v-file code is not something to be imitated, and every bit of this kind of in the rpo is a liability (it is obviously also an asset). And not-thought-through implementation behaviors do tend to acquire rigid users, making them much harder to change later. https://github.com/rocq-prover/rocq/pull/18325 is an example.

**Comment by lyonel2017** [comment]
> I think it will be good having a tactic like this in stdlib. And I'd like to use it myself, both in stdlib and otherwise. At the same time, the proposed implementation provoked a number of initial responses and questions from me. This initial review is not complete and not everything here is requirement for merging, but I would like to hear your thoughts on these points and overall plan/goals.
> 
> Additionally, are you looking to keep using this tactic yourself, and where?
> 
> Edit: an important part of my context here is that I am a heavy user of nsatz and have spent a substantial amount of time fighting its implementation issues, including maintaining a part-reimplementation ([in fiat-crypto](https://github.com/mit-plv/fiat-crypto/blob/master/src/Algebra/Nsatz.v)). From this, my overall impression is that nsatz .v-file code is not something to be imitated, and every bit of this kind of in the repo is a liability (it is obviously also an asset). And not-thought-through implementation behaviors do tend to acquire rigid users, making them much harder to change later. [rocq-prover/rocq#18325](https://github.com/rocq-prover/rocq/pull/18325) is an example, [#155 (comment)](https://github.com/rocq-prover/stdlib/pull/155#issuecomment-2932249417) (WIP) is another.

My original plan was to use this tactic in Easycrypt. It is not certain that this will happen in the end. I will apply patches to answer the question as best I can. The ongoing re-implementation of nsatz is in conflict with ensatz and will require more time to patch.

File: theories/nsatz/ENsatzTactic.v [hunk 10]
```diff
@@ -0,0 +1,521 @@
...
+
+Examples: see test-suite/success/ENsatz.v
+
+*)
+
+From Stdlib Require Import List.
+From Stdlib Require Import Setoid.
+From Stdlib Require Import BinPos.
+From Stdlib Require Import BinList.
+From Stdlib Require Import Znumtheory.
```
[the remark this answers is not in the document]
Comment (lyonel2017) [reply theories/nsatz/ENsatzTactic.v]: Done.

File: theories/nsatz/ENsatzTactic.v [hunk 11]
```diff
@@ -0,0 +1,521 @@
...
+From Stdlib Require Export Morphisms Setoid Bool.
+From Stdlib Require Export Algebra_syntax.
+From Stdlib Require Export Ncring.
+From Stdlib Require Export Ncring_initial.
+From Stdlib Require Export Ncring_tac.
+From Stdlib Require Export Integral_domain.
+From Stdlib Require Import ZArith.
```
[the remark this answers is not in the document]
Comment (lyonel2017) [reply theories/nsatz/ENsatzTactic.v]: Done.

File: theories/nsatz/ENsatzTactic.v [hunk 12]
```diff
@@ -0,0 +1,521 @@
...
+  | nil => tt
+  | a :: q => (ring0, ring0_tuple A q)
+  end.
+
+(* The type of the existential *)
+
+Fixpoint FType (A : Type) (l : list (bool * A)) {struct l} : Type :=
+  match l with
+  | nil => unit
+  | (true, _) :: l0 =>  (R * FType A l0)%type
```
[the remark this answers is not in the document]
Comment (lyonel2017) [reply theories/nsatz/ENsatzTactic.v]: The Boolean indicates whether the polynomial which is part of the ideal comes from the hypotheses or the goal.

File: theories/nsatz/ENsatzTactic.v [hunk 13]
```diff
@@ -0,0 +1,521 @@
...
+  | a::l => Interp a == 0 /\ Cond0 A Interp l
+  end.
+
+Fixpoint BFType (A : Type) (l : list A) {struct l} : Type :=
+  match l with
+  | nil => unit
+  |  _ :: l0 =>  (R * BFType A l0)%type
+  end.
+
+Fixpoint BCond0 (A : Type) (Interp : A -> R) (l : list A) {struct l} : (BFType A l -> R) :=
```
[the remark this answers is not in the document]
Comment (lyonel2017) [reply theories/nsatz/ENsatzTactic.v]: The "B" has no meaning. I remove it.

The definition build the term:
```math
\sum_{i \in 1 \dots s} S_i (P_i-Q_i)  + \sum_{i \in 1 \dots m} S_i (Q_i') 
```

File: theories/nsatz/ENsatzTactic.v [hunk 14]
```diff
@@ -0,0 +1,521 @@
...
+Fixpoint FType (A : Type) (l : list (bool * A)) {struct l} : Type :=
+  match l with
+  | nil => unit
+  | (true, _) :: l0 =>  (R * FType A l0)%type
+  | (false,_)  :: l0 =>  FType A l0
+  end.
+
+(* For the conclusion *)
+
+Fixpoint GCond0 (A : Type) (Interp : A -> R) (l : list (bool * A)) {struct l} : (FType A l -> R) :=
```
[the remark this answers is not in the document]
Comment (lyonel2017) [reply theories/nsatz/ENsatzTactic.v]: G state for goal. We build the term:
```math
\sum_{i \in 1 \dots m} S_i \times Q_i 
```
only with the polynomial in the ideal coming from the goal.

File: theories/nsatz/ENsatzTactic.v [hunk 15]
```diff
@@ -0,0 +1,521 @@
...
+            let pl := mk_pl lp21 n in
+            assert (Hg2: mk_HCond0 PEZ (PEevalR lv) pl);
+            [repeat (split;[assumption|idtac]); exact I|];
+            generalize (@check_correct_exists
+                          _ _ _ _ _ _ _ _ _ _ _
+                          lv pl p211 lci lq Hg Hg2);
+            unfold mk_GCond0;
+            let x := fresh "x" in
+            let H1 := fresh "H" in
+            intros [x H1]; simpl in x;
```
[the remark this answers is not in the document]
Comment (lyonel2017) [reply theories/nsatz/ENsatzTactic.v]: Done.

File: theories/nsatz/ENsatzTactic.v (hunk 3 above)
Comment (lyonel2017) [reply theories/nsatz/ENsatzTactic.v]: I think the reification approach is the right one. But I'll check again.

File: theories/nsatz/ENsatzTactic.v (hunk 5 above)
Comment (lyonel2017) [reply theories/nsatz/ENsatzTactic.v]: In the calls to `reify_term` in `reify`.

File: theories/nsatz/ENsatzTactic.v (hunk 9 above)
Comment (lyonel2017) [reply theories/nsatz/ENsatzTactic.v:426]: Yes, it is intented.

File: doc/changelog/02-added/160-feature-ensatz.rst [hunk 16]
```diff
@@ -0,0 +1,6 @@
+- `ENsatzTactic.v` and `ENsatz.v`
+
+  + Add support for existential quantifier in nsatz
```
[the remark this answers is not in the document]
Comment (lyonel2017) [reply doc/changelog/02-added/160-feature-ensatz.rst]: I change the entry message.

File: test-suite/success/ENsatz.v [hunk 17]
```diff
@@ -0,0 +1,204 @@
...
+  unfold divides, modulo, coprime, ideal, gcd.
+  preprocess.
+  Time ensatz.
+Qed.
+
+Goal forall x y a n:Z, modulo (x*x) a n -> modulo (y*y) a n -> divides n ((x+y)*(x-y)).
+  unfold divides, modulo, coprime, ideal, gcd.
+  preprocess.
+  Time ensatz.
+Qed.
```
[the remark this answers is not in the document]
Comment (lyonel2017) [reply test-suite/success/ENsatz.v:391]: I've added a first batch of additional examples. Maybe I'll add a few more.

File: theories/nsatz/ENsatzTactic.v (hunk 2 above)
Comment (lyonel2017) [reply theories/nsatz/ENsatzTactic.v]: I think conversion is necessary. But I'm also not sure I understand exactly what you mean by specific match cases.

**Comment by lyonel2017** [comment]
I created a file `ZENsatz.v` to have `ensatz` for `ZArith`. The file is almost identical to `ZNsatz.v`. I have the impression that merging both files would be better.

File: doc/changelog/02-added/160-feature-ensatz.rst [hunk 18]
```diff
@@ -0,0 +1,6 @@
...
+    (`#160 <https://github.com/coq/stdlib/pull/160>`_,
+    by Lionel Blatter).
+
```
[the remark this answers is not in the document]
Comment (lyonel2017) [reply doc/changelog/02-added/160-feature-ensatz.rst:7]: I'm not sure I understand the remark. Is the changelog entry incomplete in terms of references to the new tactic's documentation? If so, I don't know how to proceed, since the documentation page for nsatz is in the Rocq project and not Stdlib. I wrote documentation for ensatz in my fork of [Rocq](https://github.com/lyonel2017/coq/blob/doc-ensatz/doc/sphinx/addendum/nsatz.rst.).

**Comment by andres-erbsen** [comment]
Indeed, merging seems preferable to duplicating opaque-yet-relevant instances. Though, maybe ensatz just works (for Z) when ZNsatz is imported.

File: doc/changelog/02-added/160-feature-ensatz.rst (hunk 18 above)
[the remark this answers is not in the document]
Comment (andres-erbsen) [reply doc/changelog/02-added/160-feature-ensatz.rst:7]: My apologies for the broken sentence. Yes, I meant that it would be nice to have a documentation link in the changelog (and have it committed, somewhere). [Example](https://github.com/rocq-prover/rocq/blob/master/doc/changelog/04-tactics/14937-abstract-no-nametab.rst).

Where to actually put the documentation is indeed an interesting question. There are actually three plausible places: rocq refman, stdlib refman, and stdlib html+coqdoc documentation. And I'm not sure what the high-level plan is for documentation or ml-supported tactics in the rocq-stdlib split. But documenting next to nsatz (and making a linked PR) seems fine.

**Comment by andres-erbsen** [comment]
On a third thought, isn't the difference between `ensatz` and `nsatz` pretty much the same as between `eassumption` and `assumption`? It' s possible that `eassumption` is an outlier though.

**Comment by lyonel2017** [comment]
Apparently, the `auto` and `eauto` tactics are another exception. Perhaps it's acceptable to have `nsatz` and `ensatz`? 

I will give a try to add support for instantiating existential variables.

**Comment by andres-erbsen** [comment]
CI failure looks unrelated; trying again

**Comment by lyonel2017** [comment]
I have finished the refactoring, and added some examples for the existential variable part in the test file EENsatz.v (I'm not sure if this is the right place). 

Performance is poor when solving examples with existential variables compared to the same examples with existential quantifiers. One [example](https://github.com/lyonel2017/stdlib/blob/c2cacba3bb7755d5900f6711f601a240f460d626/test-suite/success/EENsatz.v#L232) cannot even be proven within a reasonable amount of time. This is due to the reduction of the certificate which can be large. Perhaps the reduction could be improved, but I haven't figured out how. The two problematic `cbn` reduction are [1](https://github.com/lyonel2017/stdlib/blob/c2cacba3bb7755d5900f6711f601a240f460d626/theories/nsatz/ENsatzTactic.v#L539) and [2](https://github.com/lyonel2017/stdlib/blob/c2cacba3bb7755d5900f6711f601a240f460d626/theories/nsatz/ENsatzTactic.v#L555).

File: theories/nsatz/ENsatzTactic.v [hunk 19]
```diff
@@ -0,0 +1,828 @@
...
+  in
+  let di :=
+    lazymatch
+      open_constr:(ltac:(typeclasses eauto):Integral_domain (ring_eq:=eq))
+    with?di => di end
+  in
+  let __ := match di with _ => assert_fails (is_evar di) end in
+  di.
+
+Lemma efactor:
```
Comment (andres-erbsen) [inline theories/nsatz/ENsatzTactic.v]: Is this lemma intentionally exported?

File: theories/nsatz/ENsatzTactic.v [hunk 20]
```diff
@@ -0,0 +1,828 @@
...
+              jump tl fst snd hd]
+           iota beta match in v
+       in
+       assert (v = z * c) by reflexivity;
+       econstrain_aux R ring0 ring1 add mul opp l q1 q2 z
+    | (_, _) => idtac
+    end.
+
+  Local Ltac econstrain R l lc lv z :=
+    let R_ring := constr:(_ :> Ring (T:=R)) in
```
Comment (andres-erbsen) [inline theories/nsatz/ENsatzTactic.v]: This lookup seems to be performed multiple times per call to ensatz. Could the result be kept around, perhaps from guess_domain? (Ditto for other lines that look the same)

File: theories/nsatz/ENsatzTactic.v [hunk 21]
```diff
@@ -0,0 +1,828 @@
...
+           (add:=?add) (mul:=?mul) (sub:=?sub) (opp:=?opp),
+          (fun e1 => ?op (@?E1 e1) ?E)) =>
+          let _ := match goal with _ => convert mul op end in
+          let E1' := reify R Tring lvar E1 in
+          let E' := reify_term R ring0 ring1 add mul sub opp lvar E in
+          constr:(fun x => mult_mpoly E' (E1' x))
+      | (_, (fun e => @?E e)) => reify_evar R E
+      | (Ring (T:=?R) (opp:=?opp), (fun e => ?op (@?E e))) =>
+          let _ := match goal with _ => convert opp op end in
+          let E' := reify_evar R E in
```
Comment (andres-erbsen) [inline theories/nsatz/ENsatzTactic.v]: Why `reify_evar` in what looks like the `opp` case?

File: theories/nsatz/ENsatzTactic.v [hunk 22]
```diff
@@ -0,0 +1,828 @@
...
+    end.
+
+  Local Fixpoint Cond0
+    (A : Type) (Interp : A -> R) (l : list A) {struct l} : (LTType A l -> R) :=
+    match l return (LTType A l -> R) with
+    | nil => fun _ => ring0
+    | a :: l0 =>
+        fun n => add (mul (Interp (fst n)) (Interp a))
+                   (Cond0 A Interp l0 (snd n))
+    end.
```
Comment (andres-erbsen) [inline theories/nsatz/ENsatzTactic.v]: Does this compute a dot product? If so, please name/document to make that clear :)

File: theories/nsatz/ENsatzTactic.v [hunk 23]
```diff
@@ -0,0 +1,828 @@
...
+  Qed.
+
+  (* The type of the existential *)
+
+  Local Fixpoint LTEType
+    {A : Type} (B: Type) (l : list (bool * A)) {struct l} : Type :=
+    match l with
+    | nil => unit
+    | (true, _) :: l0 =>  (B * LTEType B l0)%type
+    | (false, _) :: l0 =>  LTEType B l0
```
Comment (andres-erbsen) [inline theories/nsatz/ENsatzTactic.v]: Please definitely document what the booleans mean and why they are there. Might also be good to rename the fucntion to something like `denoteExType`

File: theories/nsatz/ENsatzTactic.v [hunk 24]
```diff
@@ -0,0 +1,828 @@
...
+    end.
+
+  Local Fixpoint btype_to_ftype
```
Comment (andres-erbsen) [inline theories/nsatz/ENsatzTactic.v]: It is not clear what btype and ftype refer to.

File: theories/nsatz/ENsatzTactic.v [hunk 25]
```diff
@@ -0,0 +1,828 @@
...
+              cbv delta [Cert lv p21] in Hc;
+              cbv delta
+                [PEevalR
+                   GCond0
+                   Ring_polynom.PEeval
+                   gen_phiZ gen_phiPOS
+                   InitialRing.gen_phiZ
+                   InitialRing.gen_phiPOS
+                   BinList.nth
+                   jump tl fst snd hd]
```
Comment (andres-erbsen) [inline theories/nsatz/ENsatzTactic.v]: It might be good to factor out the eval-compute calls into their own tactic, for example "evaluateDenotation" and share code where appropriate. If there are multiple variants, it would be helpful  to document the differences.

File: theories/nsatz/ENsatzTactic.v [hunk 26]
```diff
@@ -0,0 +1,828 @@
...
+    end.
+
+  Local Fixpoint certi
+    (lla : list (list PEZ)) (lpe: list PolZ) (lq: list PEZ) : LTType PolZ lpe :=
+    match lla return (LTType PolZ lpe) with
+    | nil => certi_aux lpe lq
+    | h::q =>
+        let l := certi q ((mult_l h lpe) :: lpe) lq in
+        add_coef lpe (map norm h) (fst l) (snd l)
+    end.
```
Comment (andres-erbsen) [inline theories/nsatz/ENsatzTactic.v]: I don't understand what is going on here. If you can think of naming and comments that would  be helpful, please edit accordingly.

File: theories/nsatz/ENsatzTactic.v [hunk 27]
```diff
@@ -0,0 +1,828 @@
...
+    match l with
+    | nil => nil
+    | h :: q => (false, h) :: (set_false q)
+    end.
+
+  Local Fixpoint set_true (l: list (PExpr Z)) :=
+    match l with
+    | nil => nil
+    | h :: q => (true, h) :: (set_true q)
+    end.
```
Comment (andres-erbsen) [inline theories/nsatz/ENsatzTactic.v]: Are these `List.map (pair false)` and `List.map (pair true)`?

File: theories/nsatz/ENsatzTactic.v [hunk 28]
```diff
@@ -0,0 +1,828 @@
...
+                let le := constr: (b :: l) in
+                let lpol := eval compute in le in
+                match lpol with
+                | ?p2::?lp2 => Eensatz_solve.ensatz_solve R p2 lp2 n fv v info
+                | ?g => idtac "polynomial not in the ideal"
+                end
+              end
+            end
+           end
+  | |- @ex _ (fun e1 : _ => @eq ?R (@?P1 e1) (@?P2 e1)) =>
```
Comment (andres-erbsen) [inline theories/nsatz/ENsatzTactic.v]: This case seems duplicative with the previous one. Could it be implemented by calling eexists on appropriate existential quantifiers and the the previous code? Or is there a clear downside to that approach?

File: theories/nsatz/ENsatzTactic.v [hunk 29]
```diff
@@ -0,0 +1,828 @@
...
+              rewrite <- Hc;
+              cring
+           ).
+
+  Module Reifi.
+
+    Local Definition add_mpoly (p1 p2 : @MPoly positive) : @MPoly positive:=
+      add_mpoly Pos.compare p1 p2.
+
+    Local Ltac areify R Tring lvar term:=
```
Comment (andres-erbsen) [inline theories/nsatz/ENsatzTactic.v]: What does a stand for here? (Please rename / document)

File: theories/nsatz/ENsatzTactic.v [hunk 30]
```diff
@@ -0,0 +1,828 @@
...
+               repeat unfold snd;
+               repeat unfold fst;
+               apply NsatzTactic.psos_r1b;
+               NsatzTactic.equalities_to_goal cr;
+               intros <-; cring
+           ).
+
+  Module Reifi.
+
+    Inductive Var {A: Type}: Type :=
```
Comment (andres-erbsen) [inline theories/nsatz/ENsatzTactic.v]: Please document the variable representation in the source file.

**Review by andres-erbsen — COMMENTED** [review]
Getting there! I understand better now and was thus able to leave more detailed comments. Overall I am optimistic about the capabilities of the implementation at this point and have focused the review on being able to maintain the implementation in the future.

Some performance tests would be nice to add: large expression, large context, many variables, many existential variables, unrelated slow-to-reduce subterm. They don't need to be particularly ambitious, but it's better to detect accidental asymptotic slowness now rather than later, and to avoid regressions.

File: theories/nsatz/ENsatzTactic.v [hunk 31]
```diff
@@ -0,0 +1,828 @@
...
+
+Section ensatz.
+
+  Context {R:Type}`{Rid:Integral_domain R}.
+
+  Local Fixpoint LTType {A: Type} (B : Type) (l : list A) {struct l} : Type :=
+    match l with
+    | nil => unit
+    |  _ :: l0 =>  (B * LTType B l0)%type
+    end.
```
[the remark this answers is not in the document]
Comment (lyonel2017) [reply theories/nsatz/ENsatzTactic.v]: I'm not sure that using the length of the list is practical. I think it will complicate the proofs, which are currently quite simple.

File: theories/nsatz/ENsatzTactic.v (hunk 24 above)
Comment (lyonel2017) [reply theories/nsatz/ENsatzTactic.v]: I renamed the functions and added documentation.

File: theories/nsatz/ENsatzTactic.v [hunk 32]
```diff
@@ -0,0 +1,828 @@
...
+    | ?b1 == ?b2 -> ?g =>
+        let l := hterm R g in
+        constr:((b1 :: l))
+    end.
+
+End Ensatz_solve.
+
+Module Eensatz_solve.
+
+  Local Ltac econstrain_aux R ring0 ring1 add mul opp l lc lv z:=
```
[the remark this answers is not in the document]
Comment (lyonel2017) [reply theories/nsatz/ENsatzTactic.v]: I added some documentations.

File: theories/nsatz/ENsatzTactic.v (hunk 28 above)
Comment (lyonel2017) [reply theories/nsatz/ENsatzTactic.v]: Indeed. The case where we have an existential quantifier could be solved using eexists. However, this is slower, because it requires computing the value of the cofactors used to instantiate the existential variables. To avoid this, I use the lemma `check_correct_exists` which states that these cofactors exist .

File: theories/nsatz/ENsatzTactic.v [hunk 33]
```diff
@@ -0,0 +1,828 @@
...
+      | _, mRef _ => Gt
+      | mRef _, _ => Lt
+      end.
+
+    Local Definition add_mpoly
+      {A: Type} (p1 p2 : @MPoly (@Var A)) : @MPoly (@Var A):=
+      add_mpoly equal p1 p2.
+
+    Local Ltac reify R Tring lvar term:=
+      match open_constr:((Tring, term)) with
```
[the remark this answers is not in the document]
Comment (lyonel2017) [reply theories/nsatz/ENsatzTactic.v]: Fixed by using two nested matches.

File: theories/nsatz/ENsatzTactic.v (hunk 26 above)
Comment (lyonel2017) [reply theories/nsatz/ENsatzTactic.v]: I renamed the functions and added documentations.

**Comment by lyonel2017** [comment]
I added some example with larger context, many variables: [e1](https://github.com/lyonel2017/stdlib/blob/580e7ab14571fa19a23a7bec154e50a4463f1bd0/test-suite/success/ENsatz.v#L482-L504), [e2](https://github.com/lyonel2017/stdlib/blob/580e7ab14571fa19a23a7bec154e50a4463f1bd0/test-suite/success/ENsatz.v#L316-L336)

**Comment by andres-erbsen** [comment]
This is a solid feature and an improvement in code quality; I will merge before perfectionism gets the better of me. Thank you for the contribution!

Please also submit a documentation PR -- what you proposed above is a good example but likely needs some changes to catch up with code. Thanks!
